US08629137B2
Step 1: 4-cyano-3-fluoro-benzoic Acid Chloride
0.66 g (4.0 mmol) 4-cyano-3-fluoro-benzoic acid were mixed with 10 mL thionyl chloride and boiled for 2 h. The mixture was evaporated to dryness and coevaporated twice with toluene. The residue was reacted further as the crude product.

reactant | 4-cyano-3-fluoro-benzoic acid | 4.0 mmol, 0.66 g | C(#N)C1=C(C=C(C(=O)O)C=C1)F | C8H4FNO2
reactant | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-cyano-3-fluoro-benzoic Acid Chloride | C(#N)C1=C(C=C(C(=O)Cl)C=C1)F | C8H3ClFNO
